US08076336B2
6-((R)-sec-Butoxy)-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine
(R)-Butan-2-ol (0.5 ml) was deprotonated analogously to W1.056 with sodium hydride (85 mg) and reacted with 6-chloro-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine (W2.006a, 100 mg), suspended in DMF (2 ml), and worked up. 75 mg of the title compound were isolated in sufficient purity.

reactant | (R)-Butan-2-ol | 0.5 ml | C[C@H](CC)O | C4H10O
reactant | sodium hydride | 85 mg | [H-].[Na+]
reactant | 6-chloro-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 100 mg | ClC=1C(=C(C=2N(N1)C(=NN2)N)C)C | C7H8ClN5
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 6-((R)-sec-Butoxy)-7,8-dimethyl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 75 mg | [C@@H](C)(CC)OC=1C(=C(C=2N(N1)C(=NN2)N)C)C | C11H17N5O
